US09428477B2
Production of 1-((E)-2-Decenoyl)-4-[2-(dimethylamino)ethyl]piperazine [Compound 22]
The same procedures as in Example 1 were carried out using (E)-2-decenoic acid and 1-[2-(dimethylamino)ethyl]piperazine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 1-[2-(dimethylamino)ethyl]piperazine | CN(CCN1CCNCC1)C | C8H19N3
product | 1-((E)-2-Decenoyl)-4-[2-(dimethylamino)ethyl]piperazine | C(\C=C\CCCCCCC)(=O)N1CCN(CC1)CCN(C)C | C18H35N3O
